US08648089B2
4-(6-(3-aminophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenol
Methanol (2 mL) was added to 4-(6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenol (4.6 mg, 0.0113 mmol) and 10% (w/w) palladium-carbon (Pd—C, 5.0 mg). The mixture was stirred at room temperature for 12 hours under hydrogen gas (1 atm). The reaction solution was filtered using a diatomite pad and concentrated under reduced pressure. The target compound was obtained as brown solid.

reactant | 4-(6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenol | 0.0113 mmol, 4.6 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C2C(=CN(C2=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C25H17N3O3
catalyst | palladium-carbon | 5.0 mg | [C].[Pd]
solvent | Methanol | 2 mL | CO | CH4O
product | 4-(6-(3-aminophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenol | NC=1C=C(C=CC1)C1=CC=C2C(=CN(C2=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C25H19N3O
